US07304062B2
Step A: Preparation of Methyl 4-(4-methoxyphenyl)-butyrate
To a solution of 4-(4-methoxyphenyl)-butyric acid (25.1 g, 0.129 mol) in methanol (130 mL), was added sulfuric acid (concentrated, 1.0 mL) dropwise and it was stirred at room temperature overnight under nitrogen. The reaction mixture was concentrated on a rota-vapor, the residue was then partitioned between ethyl acetate (200 mL) and saturated sodium bicarbonate aqueous solution (200 mL). The organic phase was separated, washed with brine (3×200 mL), then dried over Na2SO4 and filtered. Evaporation of solvent gave the titled compound as an oil (26.8 g, 99%). Mass (MH+)=209.

reactant | 4-(4-methoxyphenyl)-butyric acid | 0.129 mol, 25.1 g | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 130 mL | CO | CH4O
product | Methyl 4-(4-methoxyphenyl)-butyrate | 26.8 g, 99% | COC1=CC=C(C=C1)CCCC(=O)OC | C12H16O3
